US05225402
4-Hydroxypropyltriphenylphosphonium bromide (2.4 g) is dispersed into tetrahydrofuran (50 ml) and thereto is added dropwise lithium diisopropylamide (a solution in 1.99 N tetrahydrofuran) (6.1 ml) at 0°-5° C. After adding, the mixture is stirred at 0°-5° C. for 1 hour and thereto is added 1-[1-(4-formylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (2 g). The mixture is stirred at room temperature overnight. The reaction mixture is poured into ice-water and adjusted to pH 4-5 by adding conc. hydrochloric acid. The mixture is extracted with ethyl acetate and dried with magnesium sulfate. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (solvent: n-hexane:ethyl acetate-1:1→ ethyl acetate:methanol=20:1) to give 1-{1-[4-(4-hydroxy-1-butenyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (1 g).

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-[1-(4-formylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 2 g | C(=O)C1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C22H22N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 1.99 N | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-{1-[4-(4-hydroxy-1-butenyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 1 g | OCCC=CC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C25H28N2O3
